US07834204B2
(1) Synthesis of 6,6-di-p-tolylfulvene
To a 200-ml two-neck flask equipped with a magnetic stirrer, a three-way cock, 6.72 g (31.9 mmol) of 4,4′-dimethylbenzophenone, and 30 ml of tetrahydrofuran were charged under nitrogen atmosphere. 19 ml (38 mmol) of a 2.0 mol/l sodium cyclopentadienyl/tetrahydrofuran solution was gradually added thereto, while cooling it in an ice water bath, and the mixture was stirred at room temperature for 6 days. 100 ml of 1 N hydrochloric acid was gradually added thereto, while cooling it in an ice water bath and 100 ml of diethyl ether was added. The organic layer was separated, and washed twice with 100 ml of water, and once with 100 ml of saturated solution of salt. After the solution was dried over magnesium sulfate, the solvent was distilled off, and the obtained product was purified by column chromatography. The production quantity was 6.15 g, and the yield was 74.5%. Identification was performed by 1H NMR spectrum. The measurement result is shown as follows.

reactant | 4,4′-dimethylbenzophenone | 31.9 mmol, 6.72 g | CC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C15H14O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 6,6-di-p-tolylfulvene | yield was 74.5% | C1(=CC=C(C=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)C)C | C20H18
